US07700633B2
G. 3-Benzyloxy-7-ethyl-5,6,7,8-tetrahydronaphthalen-2-ylamine
To a solution of 6-benzyloxy-2-ethyl-7-nitro-1,2,3,4-tetrahydronaphthalene (490 mg, 1.57 mmol) is added 5% Pt/C (680 mg) and stirred under hydrogen atmosphere (1 atm) for 18 h. It is then filtered through Celite and the filtrate is concentrated. The residue is purified by column chromatography to give the title compound as a brown solid.

reactant | 6-benzyloxy-2-ethyl-7-nitro-1,2,3,4-tetrahydronaphthalene | 1.57 mmol, 490 mg | C(C1=CC=CC=C1)OC=1C=C2CCC(CC2=CC1[N+](=O)[O-])CC | C19H21NO3
catalyst | Pt/C | 680 mg | [Pt] | Pt
product | 3-Benzyloxy-7-ethyl-5,6,7,8-tetrahydronaphthalen-2-ylamine | C(C1=CC=CC=C1)OC=1C(=CC=2CC(CCC2C1)CC)N | C19H23NO
